US09260436B2
A mixture of 5.14 g of 3-amino-2-chloro-5-trifluoromethylpyridine, 3.92 g of zinc cyanide, 1.19 g of tris(dibenzylideneacetone)dipalladium(0), 1.45 g of 1,1′-bis(diphenylphosphino)ferrocene and 20 ml of DMF was stirred at 150° C. for 40 minutes. Ethyl acetate and water were added to the cooled reaction mixture, and the mixture was filtered. The aqueous layer of the filtrate was extracted with ethyl acetate, then combined with the organic layer of the filtrate and washed with water, and dried over anhydrous magnesium sulfate. The mixture was concentrated under reduced pressure, and then the resulting residue was applied to a silica gel column chromatography to obtain 2.23 g of 3-amino-2-cyano-5-trifluoromethylpyridine.

reactant | 3-amino-2-chloro-5-trifluoromethylpyridine | 5.14 g | NC=1C(=NC=C(C1)C(F)(F)F)Cl | C6H4ClF3N2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 3.92 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.19 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.45 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | O | H2O
product | 3-amino-2-cyano-5-trifluoromethylpyridine | 2.23 g | NC=1C(=NC=C(C1)C(F)(F)F)C#N | C7H4F3N3
